US04734418
4,5-Dimethoxy-2-nitrobenzaldehyde
After reacting 135 g of 3,4-dimethoxybenzaldehyde and 500 ml of conc. nitric acid at 10° C. for 20 hours, the reaction mixture was poured in 3 l of ice water and the resultant crystals were collected by filtration. The crystals were dissolved in a mixed solvent of 8 l of toluene and 500 ml of ethyl acetate. After washing the resultant solution once with a saturated aqueous solution of sodium bicarbonate, three times with water and then once with saturated saline, the solution was concentrated to about 500 ml under reduced pressure. The concentrate was cooled to room temperature and the resultant yellowish crystals (77.71 g) were then collected by filtration (yield: 61%).

reactant | 3,4-dimethoxybenzaldehyde | 135 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | nitric acid | 500 ml | [N+](=O)(O)[O-] | HNO3
product | 4,5-Dimethoxy-2-nitrobenzaldehyde | yield: 61% | COC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-] | C9H9NO5
